US08609653B2
A solution of 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)-1,4-dihydropyridine-3,5-dicarboxylate (2 g, 6.05 mmol) in dichloromethane (DCM) (30 ml) was treated with DDQ (1.374 g, 6.05 mmol) and stirred at rt for 1.5 hours. The reaction was filtered through a pad of celite and washed with DCM. The filtrate was diluted with sat. NaHCO3, extracted with DCM, washed with brine, dried with Na2SO4, filtered, and concentrated to afford 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)pyridine-3,5-dicarboxylate (1.9145 g, 5.83 mmol, 96% yield) as brown solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.14 (d, J=7.8 Hz, 2 H), 7.08-7.00 (m, 2 H), 6.05 (br. s., 2 H), 3.86 (q, J=7.2 Hz, 2 H), 3.45 (s, 3 H), 2.43 (s, 3 H), 2.37 (s, 3 H), 0.69 (t, J=7.2 Hz, 3 H); LCMS (m/z) ES+=329 (M+1).

reactant | 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)-1,4-dihydropyridine-3,5-dicarboxylate | 6.05 mmol, 2 g | NC=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)C)C(=O)OC)C | C18H22N2O4
reactant | DDQ | 6.05 mmol, 1.374 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)pyridine-3,5-dicarboxylate | 5.83 mmol, 1.9145 g, 96% yield | NC1=NC(=C(C(=C1C(=O)OCC)C1=CC=C(C=C1)C)C(=O)OC)C | C18H20N2O4
